US04055410
A mixture of 13.3 g of 2,4-thiazolidinedione and 12.3 g of o-anisidine was dissolved in 100 ml of warm ethanol at 55° to 70° C. The solution was cooled to about 30° C, and 9.1 ml of 37% formaldehyde solution was added and stirred overnight. The resulting precipitate was filtered to give 22.5 g of N-(2-methoxyphenylaminomethyl)-2,4-thiazolidinedione, mp 88.5°-91° C; identified by IR and NMR.

reactant | 2,4-thiazolidinedione | 13.3 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | o-anisidine | 12.3 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | formaldehyde | 9.1 ml | C=O | CH2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(2-methoxyphenylaminomethyl)-2,4-thiazolidinedione | 22.5 g | COC1=C(C=CC=C1)NCN1C(SCC1=O)=O | C11H12N2O3S
